US07592457B2
3-(4-methoxy-phenyl)-3-methyl-1H-quinoline-2,4-dione
The objective compound was prepared by the same procedure for the example 1, using a 2-[2-(4-methoxy-phenyl)-propionyl amino]-benzoic acid methyl ester (1.00 g, 3.19 mmol) and LiHMDS (9.57 mmol, 1M solution in THF). After normal workup, the objective compound (0.51 g, 57%) was obtained as yellow solid by a flash column chromatography (n-hexane:EtOAc=5:1): 1H NMR (200 MHz, CDCl3) δ 1.83 (s, 3H, CH3), 3.73 (s, 3H, OCH3), 6.77 d, J=8.9 Hz, 2H, ArH), 6.89-7.07 (m, 2H, ArH), 7.21 (d, J=8.9 Hz, 2H, ArH), 7.44-7.89 (m, 2H, ArH), 9.08 (br s, 1H).

reactant | 2-[2-(4-methoxy-phenyl)-propionyl amino]-benzoic acid methyl ester | 3.19 mmol, 1.00 g | COC(C1=C(C=CC=C1)NC(C(C)C1=CC=C(C=C1)OC)=O)=O | C18H19NO4
reactant | LiHMDS | 9.57 mmol, 1M | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | n-hexane | CCCCCC | C6H14
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(4-methoxy-phenyl)-3-methyl-1H-quinoline-2,4-dione | 0.51 g, 57% | COC1=CC=C(C=C1)C1(C(NC2=CC=CC=C2C1=O)=O)C | C17H15NO3
